US07179624B2
Washed phaseolus aureus L (green grams) 50 g. were taken into a conical flask and allowed to soak in deionised water (400 ml) for a period of 24 hr. 4-chloroacetophenone (0.500 g; 0.0032 moles) I(b) was added to the soaked phaseolus aureus L (green grams) in the above water, covered and allowed to shake for 24 hr at 15–20° C. Then the green grams were filtered off and washed with deionised water (3×100 ml). The combined filtrate was extracted with chloroform (3×500 ml). The chloroform layer was dried and the crude product obtained (340 mg). Pure 1-(4-chlorophenyl-(1S)-ethan-1-ol II(b) was obtained after column chromatography with silica gel using chloroform as eluent.

reactant | 4-chloroacetophenone | 0.0032 moles, 0.500 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
solvent | water | O | H2O
product | 4-chlorophenyl-(1S)-ethan-1-ol | ClC1=CC=C(C=C1)[C@H](C)O | C8H9ClO
